US04221582
A mixture of 25.2 g 2,5-dimethyl-4-(methylthio)phenol and 20.3 ml dimethylcarbamoyl chloride in 70 ml dry pyridine was heated for 24 hours at 100° C. Addition to excess of ice-cold dilute hydrochloric acid gave an oil. The oil product was extracted into ether and washed three times with cold dilute sodium hydroxide and once with water, dried, and the ether removed by evaporation to give 4-dimethylcarbamoyloxy-2,5-dimethylphenyl methyl sulphide, boiling point 146° C. at 0.6 mm to 150° C. to 0.9 mm.

reactant | 2,5-dimethyl-4-(methylthio)phenol | 25.2 g | CC1=C(C=C(C(=C1)SC)C)O | C9H12OS
reactant | dimethylcarbamoyl chloride | 20.3 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 4-dimethylcarbamoyloxy-2,5-dimethylphenyl methyl sulphide | CSC1=C(C=C(C(=C1)C)OC(N(C)C)=O)C | C12H17NO2S
